US08912186B2
By a procedure similar to that of example 1.59.2, starting from 1-(4-phenoxyphenyl)-3-phenylprop-2-en-1-one and barbituric acid, 5-(3-oxo-3-(4-phenoxyphenyl)-1-phenylpropyl)pyrimidine-2,4,6(1H,3H,5H)-trione was obtained as yellow solid.

reactant | 1-(4-phenoxyphenyl)-3-phenylprop-2-en-1-one | O(C1=CC=CC=C1)C1=CC=C(C=C1)C(C=CC1=CC=CC=C1)=O | C21H16O2
reactant | barbituric acid | N1C(=O)NC(=O)CC1=O | C4H4N2O3
product | 5-(3-oxo-3-(4-phenoxyphenyl)-1-phenylpropyl)pyrimidine-2,4,6(1H,3H,5H)-trione | O=C(CC(C1=CC=CC=C1)C1C(NC(NC1=O)=O)=O)C1=CC=C(C=C1)OC1=CC=CC=C1 | C25H20N2O5
